US06831164B2
2,3,4,6-Tetra-O-benzoyl-1-O-carboxymethyl-mannopyranose
A mixture that consists of 59.66 g (100 mmol) of 2,3,4,6-tetra-O-benzoyl-mannopyranose, 1.39 g (5 mmol) of tetrabutylammonium chloride and 15.2 g (110 mmol) of anhydrous potassium carbonate in 500 ml of dimethylformamide is cooled to 0° C. At 0° C., 36.92 g (200 mmol) of chloroacetic acid benzyl ester is added in drops over 20 minutes while being stirred vigorously. It is stirred for one hour at 10° C. 250 ml of methyl-tert-butyl ether is added, the organic phase is separated, it is filtered and evaporated to the dry state in a vacuum. The residue is taken up in 500 ml of ethanol and mixed with 5 g of palladium (10%) on activated carbon. It is hydrogenated until hydrogen absorption is completed. Catalyst is filtered out, it is rewashed with a little ethanol, and the combined solutions are evaporated to the dry state in a vacuum. The residue is chromatographed on silica gel (mobile solvent: dichloromethane/n=hexane/ethanol/acetic acid=20:5:3:0.5). The product-containing fractions are concentrated by evaporation, dissolved in 400 ml of ethyl acetate and shaken out three times with 200 ml of water. Then, the organic phase is separated and evaporated to the dry state in a vacuum.

reactant | 2,3,4,6-tetra-O-benzoyl-mannopyranose | 100 mmol, 59.66 g | C(C1=CC=CC=C1)(=O)O[C@@H]1C(O)O[C@@H]([C@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C34H28O10
reactant | potassium carbonate | 110 mmol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetic acid benzyl ester | 200 mmol, 36.92 g | C(C1=CC=CC=C1)OC(CCl)=O | C9H9ClO2
reactant | methyl-tert-butyl ether | 250 ml | COC(C)(C)C | C5H12O
catalyst | tetrabutylammonium chloride | 5 mmol, 1.39 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 2,3,4,6-Tetra-O-benzoyl-1-O-carboxymethyl-mannopyranose | C(C1=CC=CC=C1)(=O)O[C@@H]1C(OCC(=O)O)O[C@@H]([C@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C36H30O12
